US06057349
Preparation of N-[5-chloro-3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)-2-methylphenyl]methanesulfonamide hydrochloride
N-[5-chloro-3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)-2-methylphenyl]methane-sulfonamide, mp 198.1-199.3° C., was prepared in a similar manner to that described above for N-[4-chloro-3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)-2-methylphenyl]methane-sulfonamide, except the starting material was 5-chloro-2-methyl-3-nitroaniline described in Scheme Q (Example 6D).

reactant | N-[5-chloro-3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)-2-methylphenyl]methane-sulfonamide | ClC=1C=C(C(=C(C1)NS(=O)(=O)C)C)OCC=1NCCN1 | C12H16ClN3O3S
reactant | N-[4-chloro-3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)-2-methylphenyl]methane-sulfonamide | ClC1=C(C(=C(C=C1)NS(=O)(=O)C)C)OCC=1NCCN1 | C12H16ClN3O3S
reactant | 5-chloro-2-methyl-3-nitroaniline | ClC=1C=C(C(=C(N)C1)C)[N+](=O)[O-] | C7H7ClN2O2
product | N-[5-chloro-3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)-2-methylphenyl]methanesulfonamide hydrochloride | Cl.ClC=1C=C(C(=C(C1)NS(=O)(=O)C)C)OCC=1NCCN1 | InChI=1S/C12H16ClN3O3S.ClH/c1-8-10(16-20(2,17)18)5-9(13)6-11(8)19-7-12-14-3-4-15-12;/h5-6,16H,3-4,7H2,1-2H3,(H,14,15);1H
